US08119692B2
4-Methoxy-4-o-tolyl-butyraldehyde (Intermediate C10)
To a solution of 2-(3-Methoxy-3-o-tolyl-propyl)-[1,3]dioxolane (285.0 mg, 1.2 mmol) in 14 mL THF was added 7 mL 1M aqueous HCl at room temperature. After stirring the mixture for 12 h, water was added and the solution extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (2×10 mL) and dried over Na2SO4. Evaporation of solvent provided the desired product as an oil which was used directly in the next experiment without further purification.

reactant | 2-(3-Methoxy-3-o-tolyl-propyl)-[1,3]dioxolane | 1.2 mmol, 285.0 mg | COC(CCC1OCCO1)C1=C(C=CC=C1)C | C14H20O3
reactant | HCl | 1M, 7 mL | Cl | ClH
reactant | water | O | H2O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-4-o-tolyl-butyraldehyde | COC(CCC=O)C1=C(C=CC=C1)C | C12H16O2
